US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(2-furyl)-4-isopropylisoxazole
5-(2-Furyl)-3-hydroxy-4-isopropylisoxazole (0.2 g) and 2-(N-tert-butoxycarbonylamino)ethanol (0.18 g) were subjected to reaction and post-treatment in a similar manner to that described in Example 9(a) to obtain the title compound (0.29 g, 83%) as a colorless powder.

reactant | 5-(2-Furyl)-3-hydroxy-4-isopropylisoxazole | 0.2 g | O1C(=CC=C1)C1=C(C(=NO1)O)C(C)C | C10H11NO3
reactant | 2-(N-tert-butoxycarbonylamino)ethanol | 0.18 g | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(2-furyl)-4-isopropylisoxazole | 0.29 g, 83% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1C(C)C)C=1OC=CC1 | C17H24N2O5
